US07189741B2
C. Preparation of 2-[2-(4-{1-[3-(benzo[1,3]dioxol-5-yloxy)propyl]-1H-indol-3-yl}piperidin-1-yl)ethoxy]benzoic acid
This compound was prepared following the procedure described in example 13 (part D), starting with 8.1 mmol of 1-[3-(benzo[1,3]dioxol-5-yloxy)-propyl]-3-piperidin-4-yl-1H-indole and 2.3 g (11 mmol) of of 2-(2-chloro-ethoxy)-benzoic acid methyl ester. After the standard work-up, 2.68 g of the corresponding acid was obtained. The crude mixture was purified by flash chromatography over silica gel affording 1.15 g (26% of yield) of the expected acid.

reactant | 1-[3-(benzo[1,3]dioxol-5-yloxy)-propyl]-3-piperidin-4-yl-1H-indole | 8.1 mmol | O1COC2=C1C=CC(=C2)OCCCN2C=C(C1=CC=CC=C21)C2CCNCC2 | C23H26N2O3
reactant | 2-(2-chloro-ethoxy)-benzoic acid methyl ester | COC(C1=C(C=CC=C1)OCCCl)=O | C10H11ClO3
product | 2-[2-(4-{1-[3-(benzo[1,3]dioxol-5-yloxy)propyl]-1H-indol-3-yl}piperidin-1-yl)ethoxy]benzoic acid | 2.68 g | O1COC2=C1C=CC(=C2)OCCCN2C=C(C1=CC=CC=C21)C2CCN(CC2)CCOC2=C(C(=O)O)C=CC=C2 | C32H34N2O6
